US08044068B2
Benzyl N-(2-propionylphenyl)malonamate (1.8 g) was dissolved in ethanol (20 mL), followed by addition of potassium t-butoxide (0.65 g), and the mixture was stirred at room temperature for 3 h. The precipitated solids were collected by filtration and washed with water to obtain benzyl 4-ethyl-2-hydroxyquinoline-3-carboxylate (1.4 g).

reactant | Benzyl N-(2-propionylphenyl)malonamate | 1.8 g | C(CC)(=O)C1=C(C=CC=C1)NC(CC(=O)OCC1=CC=CC=C1)=O | C19H19NO4
reactant | potassium t-butoxide | 0.65 g | CC(C)([O-])C.[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | benzyl 4-ethyl-2-hydroxyquinoline-3-carboxylate | 1.4 g | C(C)C1=C(C(=NC2=CC=CC=C12)O)C(=O)OCC1=CC=CC=C1 | C19H17NO3
